US09428508B2
(R)-2,4-dichloro-7-(4-methoxybenzyl)-5-methyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was prepared from (R)-2-(2,4,6-trichloropyrimidin-5-yl)propyl methanesulfonate (60 mg, 0.188 mmol), (4-methoxyphenyl)methanamine (39 mg, 0.28 mmol) and triethyl amine (38 mg, 0.375 mmol), and isolated as a yellow (45 mg, yield 74%). 1H NMR (400 MHz, CDCl3) δ ppm 7.16-7.19 (d, 2H, J=8.8 Hz), 6.86-6.88 (d, 2H, J=8.4 Hz), 4.54 (s, 2H), 3.80 (s, 3H), 3.66-3.71 (t, 1H, J=6.0 Hz), 3.33-3.36 (m, 1H), 3.08-3.12 (dd, 1H, J=4.4 Hz, 10.0 Hz), 1.29-1.31 (d, 3H, J=6.8 Hz).

reactant | (R)-2-(2,4,6-trichloropyrimidin-5-yl)propyl methanesulfonate | 0.188 mmol, 60 mg | CS(=O)(=O)OC[C@H](C)C=1C(=NC(=NC1Cl)Cl)Cl | C8H9Cl3N2O3S
reactant | (4-methoxyphenyl)methanamine | 0.28 mmol, 39 mg | COC1=CC=C(C=C1)CN | C8H11NO
reactant | triethyl amine | 0.375 mmol, 38 mg | C(C)N(CC)CC | C6H15N
product | (R)-2,4-dichloro-7-(4-methoxybenzyl)-5-methyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | yield 74% | ClC=1N=C(C2=C(N1)N(C[C@@H]2C)CC2=CC=C(C=C2)OC)Cl | C15H15Cl2N3O
